US06610707B1
Hydroxybenzotriazole hydrate (297 mg), (3-dimethylminopropyl)-3-ethylcarbodiimide (421 mg) and N-methylmorpholine (241 ml) were added to a solution of (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid (575 mg) [see Preparation 38]. The reaction mixture was stirred for 15 mins, then 2-aminopropanol (170 ml) was added and stirring continued for 18 hrs at room temperature. The mixture was then diluted with ethyl acetate and washed with 2M aqueous hydrochloric acid, saturated sodium hydrogen carbonate and water. The organic layer was separated, dried over magnesium sulphate and the solvent removed under reduced pressure to afford (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-hydroxypropyl)-2-piperidinecarboxamide (555 mg) as an oil.

reactant | Hydroxybenzotriazole hydrate | 297 mg | O.OC1=CC=CC=2NN=NC21
reactant | N-methylmorpholine | 241 ml | CN1CCOCC1 | C5H11NO
reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid | 575 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O | C12H14FNO4S
reactant | 2-aminopropanol | 170 ml | NC(CO)C | C3H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-1-[(4-fluorophenyl)sulfonyl]-N2-(2-hydroxypropyl)-2-piperidinecarboxamide | 555 mg | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)NCC(C)O | C15H21FN2O4S
